US05123951
In a manner similar to the procedure described in Example I, 3,5-dichloroaniline was reacted with methyl chlorocarbonyl(dimethoxy)acetate, prepared as described in Example LXV Part A, employing triethylamine as the acid acceptor in methylene chloride solution. The methyl 3-[(3,5-dichlorophenyl)amino]-2,2-dimethoxy-3-oxopropanoate product (2.31 grams, 0.007 mole) was obtained as colorless crystals having a melting point of 160° C.-164° C.

reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | methyl chlorocarbonyl(dimethoxy)acetate | ClC(=O)C(C(=O)OC)(OC)OC | C6H9ClO5
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 3-[(3,5-dichlorophenyl)amino]-2,2-dimethoxy-3-oxopropanoate | 0.007 mole, 2.31 grams | ClC=1C=C(C=C(C1)Cl)NC(C(C(=O)OC)(OC)OC)=O | C12H13Cl2NO5
